Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
ASA overdose
 
Major Surgical or Invasive Procedure:
HD 
 
History of Present Illness:
Initial history and physical is as per ICU team
.
This is a ___ year-old male with a history of previous suicide 
attempt who is transferred to ___ from ___ after presenting 
there following aspirin overdose.  He took 200 pills of ASA 
325mg in a suicide attempt and then called his brother.  He was 
taken to ___.  ASA level on presentation to OSH was 
21.7 and then rose to 51. Bicarb gtt was initiated.  Reports 
that this was a suicide attempt sparked by the poor economy, 
rising gas prices, etc.  He currently denies SI/HI and states 
that he wants to live.
.
In the ED, initial vital were T: 98.2 BP: 139/107 HR: 103 RR: 20 
O2sat: 98%RA.  Urine and serum tox screens were negative.  
Repeat aspirin level here was 105.  Creatinine was elevated to 
1.3.  VBG was 7.43/35/48.  Bicarb drip was continued.  Renal was 
consulted who recommended hemodialysis and HD line was placed by 
renal team upon presentation to the FICU.
.  
ROS: + Tinnitus.  He currently denies fevers/chills.  He is 
diaphoretic and feels antsy.  He denies LH/dizziness.  No 
changes in vision.  No CP/SOB, no cough.  No abdominal pain/N/V. 
 No dysuria/urinary frequentcy.  No rahses.  

 
Past Medical History:
Previous suicide attempt appox ___ yrs ago
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Tmax: 36.1 C (96.9 F)Tcurrent: 35.9 C (96.7 F)
HR: 96 (96 - 132) bpm BP: 103/41(53) {93/41(53) - 146/89(98)} 
mmHg
RR: 27 (19 - 27) insp/min SpO2: 97% 
Heart rhythm: SR (Sinus Rhythm)Height: 67 Inch
GEN: Diaphoretic, jittery, anxious
HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or 
rhinorrhea, MMM, OP Clear  
NECK: No JVD, carotid pulses brisk, no bruits, no cervical 
lymphadenopathy, trachea midline  
COR: Sinus tachycardia, no M/G/R, normal S1 S2, radial pulses +2 
 
PULM: Lungs clear anteriorly, no W/R/R  
ABD: Soft, NT, ND, +BS, no HSM, no masses  
EXT: No C/C/E, no palpable cords 
NEURO: alert, oriented to person, place, and time. CN II  XII 
grossly intact. Moves all 4 extremities. Strength and sensation 
to soft touch grossly intact.
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 
 

 
Pertinent Results:
On admission:

___ 09:45PM BLOOD WBC-8.1 RBC-5.30 Hgb-16.6 Hct-46.1 MCV-87 
MCH-31.4 MCHC-36.1* RDW-13.9 Plt ___
___ 09:45PM BLOOD Glucose-126* UreaN-14 Creat-1.3* Na-141 
K-4.2 Cl-101 HCO3-22 AnGap-22
___ 09:45PM BLOOD ALT-29 AST-26 LD(LDH)-193 CK(CPK)-182* 
AlkPhos-70 TotBili-0.2
___ 09:45PM BLOOD Albumin-4.9* Calcium-9.1 Phos-3.7 Mg-2.4
___ 09:45PM BLOOD ASA-105* Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:03AM BLOOD HCV Ab-NEGATIVE
 
Brief Hospital Course:
This is a ___ year-old male without significant PMH who presents 
following suicide attempt with aspirin overdose.  
.  
# Aspirin overdose/suicide attempt: Pt had no signs or symptoms 
of bleed and remain afebrile from time of admission until 
transfer out of the unit. ASA level on admission was 105 and 
trended down to 15 at time of transfer to the floor. Pt 
initially had AG met acidosis with compensatory resp alkalosis. 
He was initially placed on a bicarb gtt but this was d/c'd 
___. Toxicology and renal were consulted and pt had HD line 
placed followed by HD on ___.  HD line is to be removed by 
renal on ___.
Psych was consulted and recommended inpatient psychiatry unit 
placement.  He was watched a 1:1 sitter on the floor. At time of 
transfer to the inpatieent floor, he denied any SI or other 
thoughts of hurting himself.  He remaineed medically stable and 
will be transferred to ___ 4 for further psychiactric 
care.
.
# ARF:  Cr was 1.6 at admission.  ASA can cause interstitial 
nephritis, papillary necrosis, proteinuria.  Creatinine now down 
to 1.0 from 1.3 on admission, within normal range
.
# FEN:  Regular diet.  
.
# Code:  FULL.  

# Dispo:  transfer to inpatient psychiatry unit
 

 
Medications on Admission:
None
 
Discharge Medications:
1. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
2. Polyethylene Glycol 3350 100 % Powder Sig: One (1) dose PO 
daily prn as needed for constipation.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Aspirin Overdose, suicide attempt

 
Discharge Condition:
Good

 
Discharge Instructions:
-Transfer to inpatient psychiatric unit for further care
-Follow up with PCP after discharge.
 
Followup Instructions:
___